US05420115
9-(2-Deoxy-2-fluoro-β-D-ribofuranosyl)adenine hydrochloride
To a solution of 9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)adenine (500 mg. 1.86 mmol) in MeOH (40 ml) and water (10 ml) was added a solution of isopropanol (15 ml) previously saturated with HCl gas. The solution was evaporated under vacuum at room temperature, and triturated with EtOH (25 ml) to afford the title compound as a white solid.

reactant | 9-(2-deoxy-2-fluoro-β-D-ribofuranosyl)adenine | 1.86 mmol, 500 mg | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC=NC(=C2N=C1)N | C10H12FN5O3
reactant | isopropanol | 15 ml | C(C)(C)O | C3H8O
reactant | HCl | Cl | ClH
solvent | MeOH | 40 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 9-(2-Deoxy-2-fluoro-β-D-ribofuranosyl)adenine hydrochloride | Cl.F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC=NC(=C2N=C1)N | InChI=1S/C10H12FN5O3.ClH/c11-5-7(18)4(1-17)19-10(5)16-3-15-6-8(12)13-2-14-9(6)16;/h2-5,7,10,17-18H,1H2,(H2,12,13,14);1H/t4-,5-,7-,10-;/m1./s1
